US07671063B2
An intimate mixture of N3-benzyl-N3,4-dimethyl-benzene-1,3-diamine (158 mg, 0.7 mmol) and 4-hydroxy-2-methylthio-pyrimidine (109 mg, 0.77 mmol) is heated in an oil bath of 160° C. After 3 h the melt is cooled to room temperature and treated with MeOH. The remaining solid is collected by filtration, washed with MeOH, and dried, giving 65.5 mg (29%) of N3-benzyl-N1-(4-hydroxy-pyrimidin-2-yl)-N3,4-dimethyl-benzene-1,3-diamine.

reactant | N3-benzyl-N3,4-dimethyl-benzene-1,3-diamine | 0.7 mmol, 158 mg | C(C1=CC=CC=C1)N(C=1C=C(C=CC1C)N)C | C15H18N2
reactant | 4-hydroxy-2-methylthio-pyrimidine | 0.77 mmol, 109 mg | OC1=NC(=NC=C1)SC | C5H6N2OS
solvent | MeOH | CO | CH4O
product | N3-benzyl-N1-(4-hydroxy-pyrimidin-2-yl)-N3,4-dimethyl-benzene-1,3-diamine | 65.5 mg, 29% | C(C1=CC=CC=C1)N(C=1C=C(C=CC1C)NC1=NC=CC(=N1)O)C | C19H20N4O
